US04151360
6.65 g (0.0171 mol) of 6(R),10-dimethyl-undecan-2-yn-4(R)-ol 3,5-dinitrobenzoate and 35 ml of 6 N aqueous NaOH in methanol (300 ml) were refluxed for 11/2 hr. It was worked up as in Example 45 to give 3.30 g (98.8%) of pure 6(R),10-dimethyl-undecan-2-yn-4(R)-ol as a colorless oil.

reactant | 6(R),10-dimethyl-undecan-2-yn-4(R)-ol 3,5-dinitrobenzoate | 0.0171 mol, 6.65 g | [N+](=O)([O-])C=1C=C(C(=O)O[C@@H](C#CC)C[C@@H](CCCC(C)C)C)C=C(C1)[N+](=O)[O-] | C20H26N2O6
reactant | NaOH | 6 N, 35 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 6(R),10-dimethyl-undecan-2-yn-4(R)-ol | 3.30 g, 98.8% | C[C@@H](C[C@H](C#CC)O)CCCC(C)C | C13H24O
